US05155130
The starting material is prepared as follows: 5-Phenoxysalicylaldehyde (6.17 g, 28.8 mmol) is dissolved in 100 ml of 1,4-dioxane and treated with potassium carbonate (7.96 g, 57.6 mmol) and methyl vinyl ketone (3.03 g, 43.2 mmol) under nitrogen. The mixture is heated at reflux for 3 hours. Water is added and three extractions with dichloromethane are carried out. The organic extracts are combined, dried (MgSO4) and evaporated. Purification by flash chromatography (silica gel, 15% EtOAc/hexane) yields 3-acetyl-6-phenoxy-2H-1-benzopyran as a solid.

reactant | 5-Phenoxysalicylaldehyde | 28.8 mmol, 6.17 g | O(C1=CC=CC=C1)C1=CC=C(C(C=O)=C1)O | C13H10O3
reactant | potassium carbonate | 57.6 mmol, 7.96 g | C([O-])([O-])=O.[K+].[K+]
reactant | methyl vinyl ketone | 43.2 mmol, 3.03 g | C(=C)C(=O)C | C4H6O
reactant | Water | O | H2O
solvent | 1,4-dioxane | 100 ml | O1CCOCC1 | C4H8O2
product | 3-acetyl-6-phenoxy-2H-1-benzopyran | C(C)(=O)C=1COC2=C(C1)C=C(C=C2)OC2=CC=CC=C2 | C17H14O3
